2154-07-29 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2154-7-28**] 11:20 AM
 PICC LINE - START [**2154-7-28**] 02:00 PM
 MULTI LUMEN - STOP [**2154-7-28**] 06:00 PM
   Planned to extubation today
   Ongoing hyperglycemia. Increased insulin SS and will calculate insulin
   needs and make a regimen with long acting fixed dose insulin plus SS.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2154-7-28**] 08:00 AM
   Pantoprazole (Protonix) - [**2154-7-28**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-29**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 42 (35 - 58) bpm
   BP: 121/66(79) {107/54(68) - 139/69(90)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
    CVP: 20 (12 - 25)mmHg
   Total In:
                                                                    512 mL
                                                                    127 mL
   PO:
   TF:
   IVF:
                                                                    247 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    335 mL
   Urine:
                                                                  3,115 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,603 mL
                                                                   -208 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 791 (170 - 791) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 6.3 L/min
   Physical Examination
   GEN: Intubated but alert, interacting
   HEENT: MMM with secretions in the OP. R IJ site looks good w/o edema or
   ecchymosis
   CV: RRR, bradycardia, NL S1S2 no S3S4 MRG
   PULM: Bilat wheezes greater on the R
   ABD: BS+, NTND no palpable masses or HSM
   LIMBS: Chronic skin changes on the bilat legs, no signs of active
   infection
   Labs / Radiology
   282 K/uL
   10.7 g/dL
   110 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.8 mEq/L
   29 mg/dL
   103 mEq/L
   143 mEq/L
   33.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2154-7-27**]  11:53 PM
                             [**2154-7-28**]  02:41 AM
                             [**2154-7-29**]  03:29 AM
   WBC
   8.7
   7.0
   Hct
   32.9
   33.3
   Plt
   321
   282
   Cr
   0.8
   0.8
   TCO2
   35
   Glucose
   127
   110
   Other labs: PT / PTT / INR:13.6/26.8/1.2, ALT / AST:31/13,
   Differential-Neuts:73.7 %, Lymph:21.9 %, Mono:3.8 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:9.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 52 yof female with HTN, DM, COPD, Sleep Apnea who was
   transferred from an OSH for a 2nd opinion s/p failed extubation [**12-29**]
   vocal cord edema.
   # Respiratory failure:  Initially [**12-29**] to sepsis which has now been
   treated.  Patient is currently afebrile and without leukocytosis.  She
   is not s/p failed extubation [**12-29**] vocal cord edema.  Recommendation at
   OSH was to have extubation done in OR along with ENT for possible
   Tracheostomy.  Family and patient decided to transfer care to [**Hospital1 54**] for
   2nd opinion.
   - cont Dexamethasone 6mg IV daily
   - SBT in AM
   - f/u ABG
   - IP consult in AM for tracheostomy v extubation
   # Bradycardia:  Unclear etiology, baseline HR not known.   HR in 30s to
   40s currently.
   - ECG done, no acute ST or T wave changes
   - Atropine at bedside
   - Pacer pads in place
   - Cards consult to be called
   # Asthma:  Patient with history of Asthma
   - cont Combivent MDI, Singular, Budesonide
   - start Albuterol Nebs
   # HTN: cont home lasix, Valsartan
   # Recurrent Cellulitis/Lymphedema: cont Eucerin topical cream
   # Schizophrenia: cont home Fluphenazine
   # Hyperlipidemia: cont Atorvastatin
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin
   Lines:
   PICC Line - [**2154-7-28**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI and H2 blocker
 to DC one
   VAP:  Elevation of the HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-07-29 08:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and ?airway compromise
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2154-7-28**] 11:20 AM
 PICC LINE - START [**2154-7-28**] 02:00 PM
 MULTI LUMEN - STOP [**2154-7-28**] 06:00 PM
   No other major clinical events.  Doing well on SBT this morning.
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2154-7-28**] 08:00 AM
   Pantoprazole (Protonix) - [**2154-7-28**] 12:00 PM
   Other medications:
   as reviewed in ICU team note from today.  Will d/c H2B, as no need for
   dual GI prophylaxis.  It is not clear right now whether she is
   chronically on a PPI, so we will continue it.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-29**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 44 (35 - 58) bpm
   BP: 129/63(78) {107/54(67) - 139/66(90)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
   CVP: 20 (12 - 25)mmHg
   Total In:
                                                                    512 mL
                                                                    137 mL
   PO:
   TF:
   IVF:
                                                                    247 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    410 mL
   Urine:
                                                                  3,115 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,603 mL
                                                                   -273 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 791 (170 - 791) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.42/55/135/36/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, scars over anterior shins
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   282 K/uL
   110 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.8 mEq/L
   29 mg/dL
   103 mEq/L
   143 mEq/L
   33.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2154-7-27**]  11:53 PM
                             [**2154-7-28**]  02:41 AM
                             [**2154-7-29**]  03:29 AM
                             [**2154-7-29**]  07:28 AM
   WBC
   8.7
   7.0
   Hct
   32.9
   33.3
   Plt
   321
   282
   Cr
   0.8
   0.8
   TCO2
   35
   37
   Glucose
   127
   110
   Other labs: PT / PTT / INR:13.6/26.8/1.2, ALT / AST:31/13,
   Differential-Neuts:73.7 %, Lymph:21.9 %, Mono:3.8 %, Eos:0.5 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, Ca++:9.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   52 y/o woman with ongoing airway compromise after an episode of
   apparent sepsis.
   Respiratory failure /airway compromise
   -          She is doing well from a ventilatory standpoint
   -          Have discussed with IP; we will pursue extubation this
   morning with fiberoptic tools at bedside in case of difficulty
   bradycardia
   - most likely just sinus bradycardia, though EKG does not fully rule
   out block
   - no reported associations with bradycardia of her medications
                   - will ask cardiology to see her.
   COPD
   -          maintain present therapy
   Schizophrenia
   -          maintain present medications from now. Reassess after
   extubation.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   NPO for now.
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-28**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 min
   Patient is critically ill
   2pm addendum
   Drs. [**Last Name (STitle) 4950**], [**Name5 (PTitle) 4951**], and I were at bedside for extubation this
   morning.  There was no stridor after extubation and she did quite well
   clinically.  By the afternoon, she was up in a chair on minimal oxygen.
   20 min

2154-07-30 06:03:00 Physician Resident Progress Note
24 Hour Events:
   - Successful extubation yesterday am
   - Did well all day and overnight
   - Consulted cardiology re bradycardia.  Feel that this is most likely
   sinus bradycardia given that her HR increases with exertion.  Do not
   believe her brady to be concerning.
   - Required 13 un SSI over 24 hrs; gave 8 un Glargine at bedtime.
   - Pt recently underwent sleep study and was started on CPAP per
   daughter.  She has not been given a machine for home use and daughter
   does not know her settings.  Respiratory put pt on auto-set overnight.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-29**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-30**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 43 (41 - 60) bpm
   BP: 109/48(62) {87/39(51) - 148/73(90)} mmHg
   RR: 18 (7 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
                  Total In:
                                                                    712 mL
                                                                    120 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    360 mL
   Urine:
                                                                  2,295 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,583 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 100%
   ABG: 7.42/55/135/35/9
   PaO2 / FiO2: 338
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No jaundice or rash
   CV:  Bradycardic
   P: Scattered expiratory wheezes
   Abd: Soft non-tender, non-distended.  Obese
   Ext: No edema
   Neurologic: A&Ox3
   Labs / Radiology
   291 K/uL
   10.7 g/dL
   125 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.9 mEq/L
   31 mg/dL
   104 mEq/L
   144 mEq/L
   33.1 %
   6.8 K/uL
        [image002.jpg]
                             [**2154-7-27**]  11:53 PM
                             [**2154-7-28**]  02:41 AM
                             [**2154-7-29**]  03:29 AM
                             [**2154-7-29**]  07:28 AM
                             [**2154-7-30**]  03:21 AM
   WBC
   8.7
   7.0
   6.8
   Hct
   32.9
   33.3
   33.1
   Plt
   [**Telephone/Fax (3) 4971**]
   Cr
   0.8
   0.8
   0.9
   TCO2
   35
   37
   Glucose
   127
   110
   125
   Other labs: PT / PTT / INR:13.5/27.4/1.2, ALT / AST:31/13,
   Differential-Neuts:73.7 %, Lymph:21.9 %, Mono:3.8 %, Eos:0.5 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.8 mg/dL
   CXR: Small pulmonary edema
   Assessment and Plan
   This is a 52 yof female with HTN, DM, COPD, Sleep Apnea who was
   transferred from an OSH for a 2nd opinion s/p failed extubation [**12-29**]
   vocal cord edema.  Was successfully intubated on [**7-29**].
   # Respiratory failure:  Initially [**12-29**] to sepsis which has now been
   treated.  Patient is currently afebrile and without leukocytosis.  She
   is not s/p failed extubation [**12-29**] vocal cord edema.  Recommendation at
   OSH was to have extubation done in OR along with ENT for possible
   Tracheostomy.  Family and patient decided to transfer care to [**Hospital1 54**] for
   2nd opinion. Extubated without difficulty on [**7-29**].
   - cont Dexamethasone 4 mg PO taper.  Today is day 2 of 4.  Will do 4
   days of 2mg following.
   # Bradycardia:  Unclear etiology, baseline HR not known.   HR in 30s to
   40s currently.
   - ECG done, no acute ST or T wave changes
   - Consulted cards- believe to be sinus brady.  Low concern.
   - Atropine at bedside
   - Pacer pads in place
   # Asthma:  Patient with history of Asthma
   - cont Combivent MDI, Singular, Budesonide
   - start Albuterol Nebs
   # HTN: cont home lasix, Valsartan
   # Recurrent Cellulitis/Lymphedema: cont Eucerin topical cream
   # Schizophrenia: cont home Fluphenazine
   # Hyperlipidemia: cont Atorvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-28**] 02:00 PM
   Foley
   Prophylaxis:
   DVT:  SQH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today